US05190956
1-Methyl-3-Oximino-Quinolin-2,4(1H)-Dione (Formula 1.02)
Glacial acetic acid (2.7 ml) was added with stirring to a solution of 1-methyl-4-hydroxy-2(1H)-quinolinone (1.75 gm, see G. M. Copploa, J. Org. Chem., 41, 825, (1976), already cited above) and sodium nitrite (0.8 gm) in a solvent mixture consisting of methanol (17.5 ml), ethyl acetate (20 ml) and water (10 ml) under nitrogen atmosphere. The reaction mixture was stirred for 1.5 hrs at room temperature and the organic solvents were then removed under reduced pressure. The resulting suspension was filtered and the solid washed with water to give the title compound. That the expected product was obtained was confirmed by the spectral data: MS: m/e 204 (M.+); NMR (DMSO): δ3.44 (s, 3H, CH3 --N), 15.34 (br, 1H, =NOH) ppm.

reactant | acetic acid | 2.7 ml | C(C)(=O)O | C2H4O2
reactant | 1-methyl-4-hydroxy-2(1H)-quinolinone | CN1C(C=C(C2=CC=CC=C12)O)=O | C10H9NO2
reactant | sodium nitrite | 0.8 gm | N(=O)[O-].[Na+]
reactant | methanol | 17.5 ml | CO | CH4O
solvent | water | 10 ml | O | H2O
solvent | ethyl acetate | 20 ml | C(C)(=O)OCC | C4H8O2
product | 1-Methyl-3-Oximino-Quinolin-2,4(1H)-Dione | CN1C(C(C(C2=CC=CC=C12)=O)=NO)=O | C10H8N2O3
